US05015260
10 ml of 5N sodium hydroxide was heated to 70° C., and 2.76 g (12.4 mmol) of N-(2-methoxy-4-methyl-5-hydroxyphenyl)-1,3-oxazolidin-2-one was added thereto, and then the resulting mixture was stirred at 70° C. for 1 hour. After allowing to cool, 40 ml of water was poured into the reaction mixture, and acetic acid was added thereto until no further crystals were precipitated. The crystals were filtered, washed with water and recrystallized from the solvent mixture of water/ethanol (4:1, by volume). Thus, 1.10 g (5.6 mmol) of 2-methyl-4-methoxy-5-(β-hydroxyethylamino)phenol was obtained. The yield was 45%.

reactant | sodium hydroxide | 5N, 10 ml | [OH-].[Na+]
reactant | N-(2-methoxy-4-methyl-5-hydroxyphenyl)-1,3-oxazolidin-2-one | 12.4 mmol, 2.76 g | COC1=C(C=C(C(=C1)C)O)N1C(OCC1)=O | C11H13NO4
reactant | water | 40 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methyl-4-methoxy-5-(β-hydroxyethylamino)phenol | 5.6 mmol, 1.10 g, yield was 45% | CC1=C(C=C(C(=C1)OC)NCCO)O | C10H15NO3
